US08957074B2
2-chloro-7-(4-(2-cyanopropan-2-yl)phenyl)-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide
2-(4-(2-chloro-6-(hydroxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)phenyl)-2-methylpropanenitrile (589 mg, 1.8 mmol), manganese dioxide (7.8 gm, 90 mmol) and 2 M dimethylamine solution in THF (4.51 ml, 9 mmol) were combined in 6 mL dry DMF. Reaction was stirred for 3 hrs whereupon the reaction appeared complete by LC/MS. Reaction was poured into brine and extracted into EtOAc. Combined organics were washed with water followed by brine and then dried over sodium sulfate. Volatiles were removed and the residue purified by NPLC (10-100% ethyl acetate in heptane, Analogix) to yield the pure desired compound. (345 mg, 52%). MS 367.7 m/z

reactant | 2-(4-(2-chloro-6-(hydroxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)phenyl)-2-methylpropanenitrile | 1.8 mmol, 589 mg | ClC=1N=CC2=C(N1)N(C(=C2)CO)C2=CC=C(C=C2)C(C#N)(C)C | C17H15ClN4O
reactant | dimethylamine | 2 M | CNC | C2H7N
reactant | THF | 9 mmol, 4.51 ml | C1CCOC1 | C4H8O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
catalyst | manganese dioxide | 90 mmol, 7.8 gm | [O-2].[O-2].[Mn+4]
product | 2-chloro-7-(4-(2-cyanopropan-2-yl)phenyl)-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | ClC=1N=CC2=C(N1)N(C(=C2)C(=O)N(C)C)C2=CC=C(C=C2)C(C)(C)C#N | C19H18ClN5O
